US05173485
To a solution of 1-(2-hydroxyethyl)-5-formamidopyrazole (10 g) and triethylamine (18 ml) in methylene chloride (100 ml) was added dropwise methanesulfonyl chloride (8.5 ml) under ice-cooling. The mixture was stirred at 0° C. for 1.5 hours. The reaction mixture was poured into water (20 ml) and the methylene chloride layer was separated. The aqueous layer was reextracted with tetrahydrofuran twice. The organic layers were combined and dried over magnesium sulfate. The solvent was evaporated and the residue was subjected to column chromatography on silica gel (200 g) using ethyl acetate as an eluent. Fractions containing the object compound were combined and evaporated in vacuo to give 1-(2-methylsulfonyloxyethyl)-5-formamidopyrazole (3.2 g) as crystals.

reactant | 1-(2-hydroxyethyl)-5-formamidopyrazole | 10 g | OCCN1N=CC=C1NC=O | C6H9N3O2
reactant | triethylamine | 18 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 8.5 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 20 ml | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-methylsulfonyloxyethyl)-5-formamidopyrazole | 3.2 g | CS(=O)(=O)OCCN1N=CC=C1NC=O | C7H11N3O4S
